US07915424B2
5-(3-Hydroxymethylphenylethynyl)-nicotinonitrile
Add a 1 M solution of tetrabutylammonium fluoride in THF (3.33 mL, 3.33 mmol) to a solution of 5-trimethylsilanylethynyl-nicotinonitrile, (prepared as described in PREPARATION 3), (0.801 g, 4.00 mmol), in tetrahydrofuran (8.3 mL) and triethylamine (3.34 mL). After 5 min add zinc (II) bromide (1.56 g, 5.99 mmol), 3-iodobenzyl alcohol (0.42 mL, 3.33 mmol), and tetrakis(triphenylphosphine)palladium (0) (269 mg, 0.233 mmol). Heat to 55° C. for 2 h, cool to room temperature, and filter through diatomaceous earth. Purify by silica gel chromatography, eluting with 80:20 to 60:40 (1:1 hexanes:dichloromethane):ethyl acetate, to give the title compound as a yellow crystalline solid (380 mg, 49%).

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 5-trimethylsilanylethynyl-nicotinonitrile | 4.00 mmol, 0.801 g | C[Si](C)(C)C#CC=1C=NC=C(C#N)C1 | C11H12N2Si
reactant | 3-iodobenzyl alcohol | 3.33 mmol, 0.42 mL | IC=1C=C(CO)C=CC1 | C7H7IO
solvent | tetrahydrofuran | 8.3 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 3.34 mL | C(C)N(CC)CC | C6H15N
catalyst | zinc (II) bromide | 5.99 mmol, 1.56 g | [Br-].[Zn+2].[Br-]
catalyst | tetrakis(triphenylphosphine)palladium | 0.233 mmol, 269 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 3.33 mmol, 3.33 mL | C1CCOC1 | C4H8O
product | 5-(3-Hydroxymethylphenylethynyl)-nicotinonitrile | 380 mg, 49% | OCC=1C=C(C=CC1)C#CC=1C=NC=C(C#N)C1 | C15H10N2O
